US09359338B2
Step 5: Synthesis of N-[4-(4-amino-3-fluoro-anilino)-2-pyridyl]cyclopropanecarboxamide
Dissolve N-[4-(3-fluoro-4-nitro-anilino)-2-pyridyl]cyclopropanecarboxamide (160 mg, 0.51 mmol) in methanol (10 mL), add wet Pd/C (10%, 60 mg), flush with H2 and then stir the reaction under H2 atmosphere at room temperature for 6 hrs. Remove H2, filter the mixture. Concentrate the filtrate under reduced pressure to give the crude product (140 mg) which is used directly without further purification. MS: (M+1): 287.2.

reactant | N-[4-(3-fluoro-4-nitro-anilino)-2-pyridyl]cyclopropanecarboxamide | 0.51 mmol, 160 mg | FC=1C=C(NC2=CC(=NC=C2)NC(=O)C2CC2)C=CC1[N+](=O)[O-] | C15H13FN4O3
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | N-[4-(4-amino-3-fluoro-anilino)-2-pyridyl]cyclopropanecarboxamide | 140 mg | NC1=C(C=C(NC2=CC(=NC=C2)NC(=O)C2CC2)C=C1)F | C15H15FN4O
